US04775675
5,5-Dimethyl-2-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridyl)-thiazolidine-4(S)-carboxylic acid
2.03 g (10 mmoles) of pyridoxal hydrochloride are added to a solution containing 1.50 g (10 mmoles) of D-penicillamine and 0.56 g of potassium hydroxide in 10 ml of water. After stirring for 16 hours, the precipitate is filtered out to give the title acid in a yield of 2.26 g (75.7%) which can be purified by boiling with ethanol, m.p.: 201°-202° C., [α]D25 =+68.1°.

reactant | pyridoxal hydrochloride | 10 mmoles, 2.03 g | CC1=NC=C(C(=C1O)C=O)CO.Cl
reactant | D-penicillamine | 10 mmoles, 1.50 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | potassium hydroxide | 0.56 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
product | 5,5-Dimethyl-2-(3-hydroxy-5-hydroxymethyl-2-methyl-4-pyridyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C1=C(C(=NC=C1CO)C)O)C(=O)O)C | C13H18N2O4S
